2172-07-24 06:25:00 Physician Resident Progress Note
Chief Complaint: Neutropenic fever
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-7-24**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 126 (89 - 134) bpm
   BP: 108/68(75) {94/46(57) - 108/68(75)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 91%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
             3,634 mL
   PO:
             TF:
   IVF:
   1,034 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    900 mL
   Urine:
   900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,734 mL
   Respiratory support
   SpO2: 91%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Assessment and Plan:
   33 yoF w/ recently diagnosed thymoma s/p chemo [**7-13**], Afib/flutter w/
   h/o RVR who presents with neutropenic fever and Afib with RVR.
   .
   # sirs in the setting of neutropenia: patient has SIRS criteria of
   fever, leukopenia, and tachycardia as well as suspected infection.
   Lactate 2.0. Not hypotensive currently. Blood cultures sent in ED.
   Source unclear at this time. CXR without evidence of infiltrate.
   Recently placed port. Ddx includes bacteremia, line/port infection,
   UTI, or GI source. Patient is asymptomatic and exam was unrevealing. PE
   is also on ddx, but less likely at this time given fluid
   responsiveness.
   - cont vanco and cefepime per heme/onc recs
   - f/u blood cultures
   - check U/A with culture
   - draw culture from port to eval for line infection
   - IVF (now received total 5L)
   .
   # febrile neutropenia: Neutropenia s/p recent chemo now with fever.
   Unclear source as above.
   - vanco, cefepime
   - consider anaerobic/antifungal coverage if fails to respond to
   antibiotics
   - consider G-CSF if decompensates
   - follow counts
   - neutropenic precautions
   - Ibuprofen for fevers given transaminitis, but be aware of masking
   continued fevers
   - heme/onc recs
   .
   # Afib: RVR in ED. Etiology of Afib thought to be due to tumor
   irritation of pericardium. Current ddx would also include fever,
   tamponade, hypovolemia, sepsis. Most likely, RVR is secondary to
   hypovolemia, given that patient was orthostatic in the ED and with 3L
   IVF, HR on arrival is in 80-90's initially then bumped up to 120's.
   - NSAIDS for fever. Avoiding Tylenol given transaminitis
   - volume replete with NS, giving an additional liter now
   - monitor UOP, keep >35cc/hr
   - treat infection as above
   - rate control beta blocker, digoxin, but hold beta blocker till
   morning given to effectively volume replete first
   - repeat ECHO if HR is fluid unresponsive. If hypotensive, may require
   stat ECHO. No evidence of tamponade on exam currently
   - CHADS score of 0. No need for systemic anticoag.
   .
   # chest pain: patient has had chest pain. [**Month (only) 51**] be due to mediastinal
   mass or recent biopsy. Possible contribution of pericardial
   inflammation from mass. Unlikely ischemia.
   - cont pain control with Oxycontin
   - oxycodone prn
   .
   # anemia: Current Hct consistent with prior values during recent
   admission. TSH, B12, folate nl. Retic was 1.8% in setting of anemia
   suggesting poor erythropoiesis. Currently no suggestion of hemolysis
   with low normal K, Tbili of 0.7. Ddx includes myelosuppression,
   thymoma/MDS(pure red cell aplasia), GI source.
   - T+S.
   - repeat CBC in am
   - add on LDH although low suspicion of hemolysis
   .
   # thrombocytopenia: new drop in platelets. Suspect [**1-25**] myelosuppression
   from chemotherapy.
   - trend platelets
   - transfuse for plts<10 unless evidence of bleeding
   .
   # transaminitis: LFTs c/w recent values. Per liver c/s, ddx includes
   congetive, autoimmune, drug induced. Hepatitis serologies were
   negative. Hemochromatosis ruled out by Fe/TIBC < 45. TSH normal. GGT
   significantly elevated suggesting possible biliary process. RUQ u/s
   showed only cholelithiasis. Anti-smooth muscle negative. IgG normal.
   Mitochondrial M2 IgG normal. Ceruloplasmin normal. TTG-IgA was normal.
   Had liver bx at OSH which was unrevealing. Liver had also recommended
   checking LKM-1, [**Doctor First Name **], AMA Abs to r/o autoimmune hepatitis but cannot
   find record of those in system.
   - trend LFTs
   - avoiding tylenol
   .
   # B1 Thymoma: s/p her 1st course of chemo on [**7-13**] including
   cyclophosphomide, doxurubicin, cisplatin. The plan for her is
   chemo-radiation and then surgical intervention. B1 thymoma has a good
   prognosis and Rx is curative.
   - supportive care with antiemetics, ativan, pain control
   - heme/onc recs
   .
   # FEN: regular diet with neutropenic precautions
   .
   # PPx: hold heparin sc given thrombocytopenia, use pneumoboots.
   aggressive bowel regimen on narcotics.
   .
   # ACCESS: PIV. Port
   .
   # CODE: FULL
   .
   # DISP: pending above
   .
   # Comm: sister, [**Name (NI) **] is HCP. Also mother and older sister involved in
   care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   22 Gauge - [**2172-7-24**] 04:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-07-24 09:45:00 Physician Attending Progress Note
Chief Complaint: Afib, fever, pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given fluids through the night. HR came down to the 80's but
   with movement, HR goes above 100. Denies pain this AM. Mild nausea and
   some vomiting this morning. Tmax 100.4
   Oxygenation good without supplemental oxygen.
   Morning labs pending.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2172-7-24**] 03:00 AM
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Cefipime - [**2172-7-24**] 06:34 AM
   Vancomycin - [**2172-7-24**] 08:35 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2172-7-24**] 08:46 AM
   Other medications:
   Digoxin, oxycontin, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-7-24**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 114 (89 - 134) bpm
   BP: 112/63(74) {94/46(57) - 112/68(75)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
             3,964 mL
   PO:
             TF:
   IVF:
   1,364 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,200 mL
   Urine:
   1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,764 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Tearful
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Imaging: CXR: Widenend mediastinum. No infiltrates or effusions.
   Compared with [**2172-7-10**], the mediastinal mass is smaller is size.
   Microbiology: Blood cultures pending.
   Assessment and Plan
   1) Atrial fibrillation
   2) Fever
   3) Pancytopenia
   4) Thymoma
   Heart rate improved with addition of beta blocker, although still
   elevated with movement. Will increase beta blocker today.
   Remains febrile. Patient has been volume resuscitated. On antibiotics.
   Awaiting cultures. No obvoius source of infection. Catheter had been
   placed on recent admission.
   Thymoma appears significantly smaller on CXR following chemo. Patient
   very anxious about her medical condition. Tearful on exam. Asking for
   her parents. Will use benzodiazepines as needed. Ask for social service
   consult.
   Blood counts pending.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   22 Gauge - [**2172-7-24**] 04:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2172-07-25 06:36:00 Physician Resident Progress Note
Chief Complaint:
   Neutropenic Fevers,  thymoma
   24 Hour Events:
   Patient had some nausea and vomiting overnight. Amylase and Lipase were
   WNL. She also had a new, vague chest pain which she states is different
   than her usual pain related to her thymoma. She was unable to tolerate
   oxycontin/oxycodone due to nausea and was given morphine instead with
   some relief. Psychiatry felt Remeron would be a good medication as it
   is an appetite stimulant as well as an anti-anxiety /anti-depressant
   medication for her.  Patient has had some anxiety relief with PRN
   Ativan as well which began yesturday .
   She continues to have some tachycardia and fevers in 101 F range.
   Metoprolol 5 mg iv q6hrs helping to decrease HR to 90s-100s.
   Heme/onc team also following and patient with ongoing chemo/radiation
   plans.
 BLOOD CULTURED - At [**2172-7-24**] 12:48 PM
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2172-7-24**] 08:37 PM
   Cefipime - [**2172-7-25**] 06:01 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2172-7-24**] 10:00 AM
   Morphine Sulfate - [**2172-7-24**] 08:32 PM
   Metoprolol - [**2172-7-25**] 06:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-7-25**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 111 (94 - 121) bpm
   BP: 105/59(71) {84/43(55) - 121/67(76)} mmHg
   RR: 19 (0 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  5,410 mL
                                                                    516 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  2,460 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                  1,000 mL
   Urine:
                                                                  3,500 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination:
   Gen: pale complexion, anxious affect noted
   HEENT: + conjunctival pallor. No scleral icterus. MMM today, no thrush
   noted on exam
   NECK: Supple,  No JVD. No thyromegaly or lymphadenopathy noted.
   CV: irregularly irregular, thready radial pulse .S1/S2 appreciated. No
   rubs noted, no gallops/clicks
   Lungs: CTA, good effort and symmetry with inspiration/expiration
   ABD: Normoactive BS . Soft, NT, ND
   EXT: No edema,  2+ pedal  pulses BL
   SKIN: pallid, no rashes/lesions, ecchymoses, abdominal and chin
   hirsutism noted
   NEURO: sleepy, but arousable and appropriate. CN 2-12 grossly intact.
   Preserved sensation x 4 extremities,  5/5 strength throughout, nonfocal
   exam overall  Gait assessment deferred
   Labs / Radiology
   63 K/uL
   7.4 g/dL
   104 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.4 mEq/L
   3 mg/dL
   111 mEq/L
   135 mEq/L
   21.3 %
   0.6 K/uL
        [image002.jpg]
   [**7-25**] :  Na 135, K 4, Cl 102, Bicarb 28, BUN 2, Cr .5, Glu 131, AG =9 ,
   Mg 2.2, Phos 2, Ca 8.2
   [**7-25**]:  WBC 1.5, Hct 23.1, Hgb 7.9, Plts 149
   [**7-25**] : CXR
unchanged from prior, widened mediastinum with thymoma
   borders noted, no focal infiltrates in parenchyma
                             [**2172-7-24**]  09:04 AM
                             [**2172-7-24**]  08:06 PM
   WBC
   0.6
   Hct
   21.3
   Plt
   63
   Cr
   0.3
   0.4
   Glucose
   123
   104
   Other labs: ALT / AST:44/37, Alk Phos / T Bili:281/0.3, Amylase /
   Lipase:37/17, Albumin:2.4 g/dL, LDH:183 IU/L, Ca++:8.2 mg/dL, Mg++:2.5
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan:
   Assessment and Plan
   Assessment and Plan:
   33 yoF w/ recently diagnosed thymoma s/p chemo [**7-13**], Afib/flutter w/
   h/o RVR who presents with neutropenic fever and Afib with RVR.
   .
   #SIRS in the setting of neutropenia: patient has SIRS criteria of
   fever, leukopenia, and tachycardia as well as suspected infection.
   Lactate 2.0 on admission. Non- hypotensive but issues with tachycardia
   continuing now. Blood cultures unremarkable to date.  Source still
   unclear at this time. CXR without evidence of infiltrate, port site is
   clean, nonerythematous on PE. Ddx includes bacteremia, line/port
   infection, UTI, or GI source
   - Will continue vancomycin and cefepime per heme/onc recs
   - f/u blood cultures, urine cxs
   - continue gentle IVFs
   .
   # febrile neutropenia: improving WBC trend since admission with wbc
   count up to 1.5 today from .6 yesturday. Nadir s/p chemo on [**7-13**] has
   hopefully passed, will continue to trend daily cbc/ANC.  Fevers persist
   in 101 ranges now.
   - continue vancomycin , cefepime
   - consider anaerobic/antifungal coverage if fails to respond to
   antibiotics and febrile x4-5days
   - consider G-CSF if decompensates
   - follow counts
   - neutropenic precautions
   - Ibuprofen for fevers (not tylenol) given transaminitis, but be aware
   of masking continued fevers
   - heme/onc recs
   .
   # Afib: RVR in ED. Etiology of Afib thought to be due to tumor
   irritation of pericardium. Current ddx would also include fever,
   tamponade, hypovolemia, sepsis. Most likely, RVR is secondary to
   hypovolemia, given that patient was orthostatic in the ED and with 3L
   IVF, HR on arrival is in 80-90's initially then bumped up to 120's and
   still having tachycardia
   - volume replete with NS for goal UOP >35cc/hr
   - continue rate control with beta blocker
IV titrated lopressor and
   digoxin.
   - CHADS score of 0. No need for systemic anticoagulation at this
   juncture, also thrombocytopenic
   .
   # chest pain: patient has had chest pain. [**Month (only) 51**] be due to mediastinal
   mass or recent biopsy. Possible contribution of pericardial
   inflammation from mass. Unlikely ischemia. Will continue to control
   pain  with morphine PRN
   .
   # anemia: Current Hct consistent with prior values during recent
   admission. TSH, B12, folate nl. Retic was 1.8% in setting of anemia
   suggesting poor erythropoiesis. Currently no suggestion of hemolysis
   with low normal K, Tbili of 0.7. Ddx includes myelosuppression,
   thymoma/MDS(pure red cell aplasia), GI source.  Mainly a drop 2/2
   recent chemo.
   - T+S active, following daily CBC trends, will plan to transfuse for
   Hct below 21%
   .
   # thrombocytopenia: likely [**1-25**] myelosuppression from chemotherapy [**7-13**],
   will trend platelets and
   - transfuse for plts<10 unless evidence of bleeding
   .
   # transaminitis: LFTs c/w recent values. Per liver c/s, ddx includes
   congetive, autoimmune, drug induced. Hepatitis serologies were
   negative. Hemochromatosis ruled out by Fe/TIBC < 45. TSH normal. GGT
   significantly elevated suggesting possible biliary process. RUQ u/s
   showed only cholelithiasis. Anti-smooth muscle negative. IgG normal.
   Mitochondrial M2 IgG normal. Ceruloplasmin normal. TTG-IgA was normal.
   Had liver bx at OSH which was unrevealing. Liver had also recommended
   checking LKM-1, [**Doctor First Name **], AMA Abs to r/o autoimmune hepatitis but cannot
   find record of those in system.
   - trend LFTs
   - avoiding tylenol
   .
   # B1 Thymoma: s/p her 1st course of chemo on [**7-13**] including
   cyclophosphomide, doxurubicin, cisplatin. The plan for her is to
   stabilize in [**Hospital 1025**] transfer to Omed  and make plan for her continuing
   chemo-radiation and then surgical intervention. B1 thymoma has a good
   prognosis and Rx is curative.
   -will continue supportive care with antiemetics (Zofran), ativan, pain
   control
   - actively following heme/onc recs
   .
   # FEN: regular diet with neutropenic precautions
   .
   # PPx: hold heparin sc given thrombocytopenia, use pneumoboots.
   aggressive bowel regimen on narcotics.
   .
   # ACCESS: PIV. Left subclavicular Port
   .
   # CODE: FULL
   .
   # DISP: ICU for now, stabilize cardiac issues and fevers/identify any
   possible sources infection
   .
   # Comm: sister, [**Name (NI) **] is HCP. Also mother and older sister involved in
   care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   22 Gauge - [**2172-7-24**] 04:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-07-25 11:43:00 Physician Attending Progress Note
Chief Complaint: neutropenic fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33F with thymoma s/p one roung of chemotherapy, presents with
   neutropenic fever and RVR:
   24 Hour Events:
 BLOOD CULTURED - At [**2172-7-24**] 12:48 PM
   *persistent fevers, still no source
   *seen by psych, started on remeron; mood still depressed
   *no new sx
   *tachycardia better controlled;
   *nause and vomiting improved last night
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Cefipime - [**2172-7-25**] 06:01 AM
   Vancomycin - [**2172-7-25**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-7-24**] 08:32 PM
   Metoprolol - [**2172-7-25**] 06:02 AM
   Other medications:
   digoxin, colace, oxycodone, metoprolol, mirtazapine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, stable; resolved by rounds
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: Dysuria, Foley
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy
   Signs or concerns for abuse : No
   Pain: [**12-25**] Minimal
   Pain location: chest
   Flowsheet Data as of  [**2172-7-25**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 109 (94 - 121) bpm
   BP: 106/63(78) {84/54(61) - 121/67(78)} mmHg
   RR: 17 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  5,410 mL
                                                                    962 mL
   PO:
                                                                    350 mL
             TF:
   IVF:
                                                                  2,460 mL
                                                                    962 mL
   Blood products:
   Total out:
                                                                  3,500 mL
                                                                  1,000 mL
   Urine:
                                                                  3,500 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   149 K/uL
   104 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.4 mEq/L
   3 mg/dL
   111 mEq/L
   135 mEq/L
   23.1 %
   1.5 K/uL
        [image002.jpg]
                             [**2172-7-24**]  09:04 AM
                             [**2172-7-24**]  08:06 PM
                             [**2172-7-25**]  09:25 AM
   WBC
   0.6
   1.5
   Hct
   21.3
   23.1
   Plt
   63
   149
   Cr
   0.3
   0.4
   Glucose
   123
   104
   Other labs: ALT / AST:44/37, Alk Phos / T Bili:281/0.3, Amylase /
   Lipase:37/17, Albumin:2.4 g/dL, LDH:183 IU/L, Ca++:8.2 mg/dL, Mg++:2.5
   mg/dL, PO4:1.6 mg/dL
   Imaging: cxr: no change - mediastinal mass stable, no infiltrate
   Microbiology: bcx ngtd
   Assessment and Plan
   1. Neutropenic fever
   2. Pancytopenia - improving
   3. Afib with rvr
   4. chest pain
   5. anemia
   33F with thymoma, presents with neutropenic fever, afib with rvr.
   Fevers persist though fever curve down somewhat.
   Pt does have persistent intermittent tachycardia, in part because she
   was not able to tolerate some po meds. Will restart metoprolol po every
   6 hours and use metoprolol iv as needed. Will continue digoxin and
   repeat level tomorrow morning. Will also continue with IV fluids,
   additional 1-2 liters NS today.
   Will discuss with oncology whether we need to expand coverage given
   persistent fever. All counts are improving.
   Patient's mood is improving; appreciate recommendations from
   psychiatry. However, the patient is very sleepy. Will stop the ativan.
   Hct up a bit. No need for transfusion now.
   As patient is stating to tolerate POs better, she should be able to
   take PO metoprolol. Once rate control improved, she should be able to
   got to the floor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   22 Gauge - [**2172-7-24**] 04:02 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-07-26 06:27:00 Physician Resident Progress Note
Chief Complaint:
   Neutropenia, fevers, thymoma hx
   24 Hour Events:
   IV nurse called because her port site having difficulty with access but
   the external needle switched and now working well. Beta-blocker dose
   was increased and she had much better HRs overnight in the 90-120 range
   for most of the night.
   Low Phosphorus repleted overnight with scales.
   Throat cultures sent yesturday after notice of peritonsilar abscess at
   OP. Patient also c/o some right lower molar tooth pain yesturday.
   Started miracle mouthwash and given updated  mouthcare regimen.
   Anxiety improved. Patient had no active emesis or nausea overnight.
   Family visiting for majority of the night and was able to speak with
   ICU attending and Heme/Onc fellow contact[**Name (NI) **] regarding request to touch
   base with the family, attending was off on Saturday.
 BLOOD CULTURED - At [**2172-7-25**] 10:00 AM
 FEVER - 103.2
F - [**2172-7-25**] 08:00 PM
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2172-7-25**] 08:48 PM
   Cefipime - [**2172-7-25**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-7-26**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 36.7
C (98.1
   HR: 101 (77 - 149) bpm
   BP: 105/47(60) {85/46(56) - 117/90(101)} mmHg
   RR: 15 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  3,190 mL
                                                                    158 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  2,990 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                    850 mL
   Urine:
                                                                  3,580 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -390 mL
                                                                   -692 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination:
   Gen: pale complexion, less anxious affect today
   HEENT: + conjunctival pallor. No scleral icterus. MMM today, no thrush
   noted on exam but erythematous left peritonsilar region adjacent  to
   pillar,  right lower jaw / submandibular  tenderness on exam
   NECK: Supple,  No JVD. No thyromegaly or lymphadenopathy noted.
   CV: irregularly irregular, thready radial pulse .S1/S2 appreciated. No
   rubs noted, no gallops/clicks
   Lungs: CTA, good effort and symmetry with inspiration/expiration
   ABD: Normoactive BS . Soft, NT, ND
   EXT: No edema,  2+ pedal  pulses BL
   SKIN: pallid, no rashes/lesions, ecchymoses, abdominal and chin
   hirsutism noted
   NEURO: alert and oriented x3,  CN 2-12 grossly intact. Preserved
   sensation x 4 extremities,  5/5 strength throughout, nonfocal exam
   overall.  Gait assessment deferred
   Labs / Radiology
   172 K/uL
   7.4 g/dL
   112 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   3 mg/dL
   106 mEq/L
   139 mEq/L
   21.3 %
   1.5 K/uL
        [image002.jpg]
   Digoxin level .4
   Blood Cx, Urine Cx pending from [**7-24**], Blood Cx pending [**7-25**]
   Throat Cx from [**7-25**] pending
                             [**2172-7-24**]  09:04 AM
                             [**2172-7-24**]  08:06 PM
                             [**2172-7-25**]  09:25 AM
                             [**2172-7-25**]  04:03 PM
                             [**2172-7-26**]  03:00 AM
   WBC
   0.6
   1.5
   1.5
   Hct
   21.3
   23.1
   21.3
   Plt
   63
   149
   172
   Cr
   0.3
   0.4
   0.5
   0.5
   0.5
   Glucose
   123
   104
   131
   100
   112
   Other labs: PT / PTT / INR:15.5/31.3/1.4, ALT / AST:47/44, Alk Phos / T
   Bili:327/0.4, Amylase / Lipase:37/17, Albumin:2.9 g/dL, LDH:239 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan:
   Assessment and Plan:
   33 yoF w/ recently diagnosed thymoma s/p chemo [**7-13**], Afib/flutter w/
   h/o RVR who presents with neutropenic fever and Afib with RVR.
   .
   #SIRS in the setting of neutropenia: patient has SIRS criteria of
   fever, leukopenia, and tachycardia as well as suspected infection.
   Lactate 2.0 on admission. Non- hypotensive but issues with tachycardia
   continuing now. Blood cultures unremarkable to date.  Source still
   unclear at this time. CXR without evidence of infiltrate, port site is
   clean, nonerythematous on PE. Ddx includes bacteremia, line/port
   infection.  UTI r/o with normal labs and  GI source unlikely as no
   diarrhea or abdominal pain.
   - Will continue vancomycin and cefepime per heme/onc recs, holding off
   on antifungals for now
   - f/u blood cultures, urine cxs, throat cx and consider ENT consult for
   new H&N exam compaints of tooth/submandibular pain on right side and
   erythematous throat and pt c/o sore throat with swallowing. Will also
   start Nystatin S& S alongside miracle mouthwash.
   .
   # febrile neutropenia: improving WBC trend since admission with wbc
   count up to 1.5 today from .6  2 days ago . Nadir s/p chemo on [**7-13**] has
   hopefully passed, will continue to trend daily cbc/ANC.  Fevers persist
   in 101-102 ranges now.   CIS daily
   - continue vancomycin , cefepime
   - consider anaerobic/antifungal coverage if fails to respond to
   antibiotics and febrile x4-5days
   - consider G-CSF if decompensates
   - con
t  neutropenic precautions
   - Ibuprofen for fevers (not tylenol) given transaminitis, but be aware
   of masking continued fevers
   - follow heme/onc recs
   .
   # Afib: RVR in ED. Etiology of Afib thought to be due to tumor
   irritation of pericardium. Current ddx would also include fever,
   tamponade, hypovolemia, sepsis. Most likely, RVR is secondary to
   hypovolemia, given that patient was orthostatic in the ED and with 3L
   IVF, HR on arrival is in 80-90's initially then bumped up to 120's and
   still having tachycardia now
 probably due to tumor
   irritation/mechanical etiology. Will volume replete with NS for goal
   UOP >35cc/hr
   - continue rate control with beta blocker and digoxin
IV titrated
   lopressor and digoxin, Dig level low today will re-check in a.m.
   - Low CHADS score no need for systemic anticoagulation at this juncture
   # chest pain: patient has had chest pain. [**Month (only) 51**] be due to mediastinal
   mass or recent biopsy. Possible contribution of pericardial
   inflammation from mass. Unlikely ischemia. Will continue to control
   pain  with morphine PRN
   .
   # anemia: Current Hct consistent with prior values during recent
   admission. TSH, B12, folate nl. Retic was 1.8% in setting of anemia
   suggesting poor erythropoiesis. Currently no suggestion of hemolysis
   with low normal K, Tbili of 0.7. Ddx includes myelosuppression,
   thymoma/MDS(pure red cell aplasia), GI source.  Mainly a drop 2/2
   recent chemo.
   - T+S active, following daily CBC trends, will plan to transfuse for
   Hct below 21%
   .
   # Thrombocytopenia: resolved, probably [**1-25**] myelosuppression from
   chemotherapy [**7-13**], today Plts 170s.
   # Anxiety
 psych consult appreciated, patient to continue on Remeron
   and Ativan PRN for relief
   .
   # transaminitis: LFTs c/w recent values. Per liver c/s, ddx includes
   congetive, autoimmune, drug induced. Hepatitis serologies were
   negative. Hemochromatosis ruled out by Fe/TIBC < 45. TSH normal. GGT
   significantly elevated suggesting possible biliary process. RUQ u/s
   showed only cholelithiasis. Anti-smooth muscle negative. IgG normal.
   Mitochondrial M2 IgG normal. Ceruloplasmin normal. TTG-IgA was normal.
   Had liver bx at OSH which was unrevealing..
   - trend LFTs
   - avoiding tylenol
   .
   # B1 Thymoma: s/p her 1st course of chemo on [**7-13**] including
   cyclophosphomide, doxurubicin, cisplatin. The plan for her is to
   stabilize in [**Hospital 1025**] transfer to Omed  and make plan for her continuing
   chemo-radiation and then surgical intervention. B1 thymoma has a good
   prognosis and Rx is curative.
   -will continue supportive care with antiemetics (Zofran), ativan, pain
   control
   - actively following heme/onc recs
   .
   # FEN: regular diet with neutropenic precautions
   #constipation
 added colace, senna yesturday and today Miralax [**Hospital1 7**]
   will monitor and adjust PRN
   .
   # PPx: will restart heparin sc given resolved thrombocytopenia, Plts
   172 and has high clot risk given cancer and sedentary state now, con
   pneumoboots and aggressive bowel regimen (on narcotics) .
   .
   # ACCESS: PIV. Left subclavicular Port
   .
   # CODE: FULL
   .
   # DISP: ICU for now, stabilize cardiac issues and fevers/identify any
   possible sources infection
   .
   # Comm: sister, [**Name (NI) **] is HCP. Also mother and older sister involved in
   care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   22 Gauge - [**2172-7-24**] 04:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-07-26 11:36:00 Physician Attending Progress Note
Chief Complaint: neutropenic fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33F with thymoma, complicated by afib with rvr, s/p chemotherapy,
   presents with neutropenic fever of unknown origin:
   24 Hour Events:
 BLOOD CULTURED - At [**2172-7-25**] 10:00 AM
 FEVER - 103.2
F - [**2172-7-25**] 08:00 PM
   *febrile
   *less n/v, tolerating oral feeding
   *mood better
   *heart rate better controlled
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Cefipime - [**2172-7-26**] 06:28 AM
   Vancomycin - [**2172-7-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   dig, colace, oxycodone, vanco, mirtaz, metoprolol 37 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, Weight loss
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, depressed
   Signs or concerns for abuse : No
   Pain: [**12-25**] Minimal
   Pain location: chest
   Flowsheet Data as of  [**2172-7-26**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 39.3
C (102.7
   HR: 110 (77 - 142) bpm
   BP: 89/53(62) {85/46(56) - 117/90(101)} mmHg
   RR: 15 (13 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,190 mL
                                                                    514 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  2,990 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                  1,520 mL
   Urine:
                                                                  3,580 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -390 mL
                                                                 -1,006 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin,
   No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, tonsils ok; ?exudate
   on right tonsil.
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ) Few rales at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   172 K/uL
   112 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   3 mg/dL
   106 mEq/L
   139 mEq/L
   21.3 %
   1.5 K/uL
        [image002.jpg]
                             [**2172-7-24**]  09:04 AM
                             [**2172-7-24**]  08:06 PM
                             [**2172-7-25**]  09:25 AM
                             [**2172-7-25**]  04:03 PM
                             [**2172-7-26**]  03:00 AM
   WBC
   0.6
   1.5
   1.5
   Hct
   21.3
   23.1
   21.3
   Plt
   63
   149
   172
   Cr
   0.3
   0.4
   0.5
   0.5
   0.5
   Glucose
   123
   104
   131
   100
   112
   Other labs: PT / PTT / INR:15.5/31.3/1.4, ALT / AST:47/44, Alk Phos / T
   Bili:327/0.4, Amylase / Lipase:37/17, Albumin:2.9 g/dL, LDH:239 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: no new imaging
   Assessment and Plan
   1. neutropenic fever
   2. thymoma
   3. afib with rvr
   33F with new dx of thymoma, complicated by afib with rvr, s/p first
   round of chemotherapy, presented with neutropenic fever of unclear
   etiology. Blood cultures are negative to date, and counts are improving
   slowly. Today, patient is endorsing tooth pain and thoat pain, without
   obvious explanation for either on exam. Given persistent fevers without
   an explanation, will pursue explanation aggressively with dental
   consult, and head and neck imaging. Will follow-up throat cultures as
   well.
   Heart rate has improved but remains elevated. Will give patient more iv
   fluids, continue digoxin, and increase metoprolol to home dose as blood
   pressure tolerates. Fever probably contributing in part to her ongoing
   tachycardia.
   Mood is much better, and patient no longer sedated now off lorazepam.
   Also will restart sq heparin given normalization of platelets given
   cancer.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   22 Gauge - [**2172-7-24**] 04:02 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   [**First Name11 (Name Pattern1) **] [**Last Name (NamePattern4) 980**], MD

2172-07-27 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.7
F - [**2172-7-26**] 08:00 AM
   Neck CT neg for abscess
   Panorex films ordered for tooth pain- pt will go to [**Hospital Ward Name **] for
   them.
   Was bolused 2 L IVF for low blood pressure. Still tachycardic in
   100-110s, with low-normal blood pressure.
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2172-7-26**] 07:57 PM
   Cefipime - [**2172-7-27**] 05:54 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-7-27**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-7-27**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 35.9
C (96.7
   HR: 112 (89 - 151) bpm
   BP: 99/50(61) {83/39(50) - 107/62(73)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  5,364 mL
                                                                  2,347 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                  4,784 mL
                                                                  2,347 mL
   Blood products:
   Total out:
                                                                  3,520 mL
                                                                  1,050 mL
   Urine:
                                                                  3,520 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,844 mL
                                                                  1,297 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   290 K/uL
   7.4 g/dL
   136 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   2 mg/dL
   109 mEq/L
   140 mEq/L
   22.2 %
   4.5 K/uL
        [image002.jpg]
                             [**2172-7-24**]  09:04 AM
                             [**2172-7-24**]  08:06 PM
                             [**2172-7-25**]  09:25 AM
                             [**2172-7-25**]  04:03 PM
                             [**2172-7-26**]  03:00 AM
                             [**2172-7-26**]  04:30 PM
                             [**2172-7-27**]  04:17 AM
   WBC
   0.6
   1.5
   1.5
   4.5
   Hct
   21.3
   23.1
   21.3
   22.1
   22.2
   Plt
   63
   149
   172
   290
   Cr
   0.3
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   123
   104
   131
   100
   112
   136
   Other labs: PT / PTT / INR:15.5/31.3/1.4, ALT / AST:54/55, Alk Phos / T
   Bili:321/0.3, Amylase / Lipase:37/17, Albumin:2.7 g/dL, LDH:261 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Imaging: [**2172-7-26**] Nect CT: Prelim: Scattered, nonenlarged lymph nodes in
   multiple cervical stations. No
   focal lesions suggestive of abscess. Left-sided sphenoid and ethmoid
   air
   cells are fluid-filled, which could reflect sinusitis. Maxillary
   sinuses and
   mastoid air cells are well aerated.
   Assessment and Plan
   Assessment and Plan:
   33 yoF w/ recently diagnosed thymoma s/p chemo [**7-13**], Afib/flutter w/
   h/o RVR who presents with neutropenic fever and Afib with RVR.
   .
   #SIRS in the setting of neutropenia: patient has SIRS criteria of
   fever, leukopenia, and tachycardia as well as suspected infection.
   Lactate 2.0 on admission. Non- hypotensive but issues with tachycardia
   continuing now. Blood cultures unremarkable to date.  Source still
   unclear at this time. CXR without evidence of infiltrate, port site is
   clean, nonerythematous on PE. Ddx includes bacteremia, line/port
   infection.  UTI r/o with normal labs and  GI source unlikely as no
   diarrhea or abdominal pain.
   - Will continue vancomycin and cefepime per heme/onc recs, holding off
   on antifungals for now
   - f/u blood cultures, urine cxs, throat cx and consider ENT consult for
   new H&N exam compaints of tooth/submandibular pain on right side and
   erythematous throat and pt c/o sore throat with swallowing. Will also
   start Nystatin S& S alongside miracle mouthwash.
   .
   # febrile neutropenia: improving WBC trend since admission with wbc
   count up to 1.5 today from .6  2 days ago . Nadir s/p chemo on [**7-13**] has
   hopefully passed, will continue to trend daily cbc/ANC.  Fevers persist
   in 101-102 ranges now.   CIS daily
   - continue vancomycin , cefepime
   - consider anaerobic/antifungal coverage if fails to respond to
   antibiotics and febrile x4-5days
   - consider G-CSF if decompensates
   - con
t  neutropenic precautions
   - Ibuprofen for fevers (not tylenol) given transaminitis, but be aware
   of masking continued fevers
   - follow heme/onc recs
   .
   # Afib: RVR in ED. Etiology of Afib thought to be due to tumor
   irritation of pericardium. Current ddx would also include fever,
   tamponade, hypovolemia, sepsis. Most likely, RVR is secondary to
   hypovolemia, given that patient was orthostatic in the ED and with 3L
   IVF, HR on arrival is in 80-90's initially then bumped up to 120's and
   still having tachycardia now
 probably due to tumor
   irritation/mechanical etiology. Will volume replete with NS for goal
   UOP >35cc/hr
   - continue rate control with beta blocker and digoxin
IV titrated
   lopressor and digoxin, Dig level low today will re-check in a.m.
   - Low CHADS score no need for systemic anticoagulation at this juncture
   # chest pain: patient has had chest pain. [**Month (only) 51**] be due to mediastinal
   mass or recent biopsy. Possible contribution of pericardial
   inflammation from mass. Unlikely ischemia. Will continue to control
   pain  with morphine PRN
   .
   # anemia: Current Hct consistent with prior values during recent
   admission. TSH, B12, folate nl. Retic was 1.8% in setting of anemia
   suggesting poor erythropoiesis. Currently no suggestion of hemolysis
   with low normal K, Tbili of 0.7. Ddx includes myelosuppression,
   thymoma/MDS(pure red cell aplasia), GI source.  Mainly a drop 2/2
   recent chemo.
   - T+S active, following daily CBC trends, will plan to transfuse for
   Hct below 21%
   .
   # Thrombocytopenia: resolved, probably [**1-25**] myelosuppression from
   chemotherapy [**7-13**], today Plts 170s.
   # Anxiety
 psych consult appreciated, patient to continue on Remeron
   and Ativan PRN for relief
   .
   # transaminitis: LFTs c/w recent values. Per liver c/s, ddx includes
   congetive, autoimmune, drug induced. Hepatitis serologies were
   negative. Hemochromatosis ruled out by Fe/TIBC < 45. TSH normal. GGT
   significantly elevated suggesting possible biliary process. RUQ u/s
   showed only cholelithiasis. Anti-smooth muscle negative. IgG normal.
   Mitochondrial M2 IgG normal. Ceruloplasmin normal. TTG-IgA was normal.
   Had liver bx at OSH which was unrevealing..
   - trend LFTs
   - avoiding tylenol
   .
   # B1 Thymoma: s/p her 1st course of chemo on [**7-13**] including
   cyclophosphomide, doxurubicin, cisplatin. The plan for her is to
   stabilize in [**Hospital 1025**] transfer to Omed  and make plan for her continuing
   chemo-radiation and then surgical intervention. B1 thymoma has a good
   prognosis and Rx is curative.
   -will continue supportive care with antiemetics (Zofran), ativan, pain
   control
   - actively following heme/onc recs
   .
   # FEN: regular diet with neutropenic precautions
   #constipation
 added colace, senna yesturday and today Miralax [**Hospital1 7**]
   will monitor and adjust PRN
   .
   # PPx: will restart heparin sc given resolved thrombocytopenia, Plts
   172 and has high clot risk given cancer and sedentary state now, con
   pneumoboots and aggressive bowel regimen (on narcotics) .
   .
   # ACCESS: PIV. Left subclavicular Port
   .
   # CODE: FULL
   .
   # DISP: ICU for now, stabilize cardiac issues and fevers/identify any
   possible sources infection
   .
   # Comm: sister, [**Name (NI) **] is HCP. Also mother and older sister involved in
   care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   22 Gauge - [**2172-7-26**] 03:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-07-27 11:44:00 Physician Attending Progress Note
Chief Complaint: AFib, tachycardia, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had fever last night. Heart rate better controlled.
   Transient drop in BP last night, with some response to fluids.
   O2 sats excellent on minimal supplemental oxygen.
   WBC returning. Platelets back to normal.
   24 Hour Events:
 FEVER - 102.7
F - [**2172-7-26**] 08:00 AM
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Sulfa (Sulfonamides)
   Rash; Hives;
   Last dose of Antibiotics:
   Cefipime - [**2172-7-27**] 05:54 AM
   Vancomycin - [**2172-7-27**] 07:46 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2172-7-27**] 05:01 AM
   Heparin Sodium (Prophylaxis) - [**2172-7-27**] 07:44 AM
   Other medications:
   digoxin, colace, oxycontin, remeron, lopressor, merolax
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-7-27**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.2
   HR: 96 (85 - 151) bpm
   BP: 111/44(61) {83/39(50) - 111/62(73)} mmHg
   RR: 21 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
           Total In:
                                                                  5,364 mL
                                                                  2,954 mL
   PO:
                                                                    580 mL
           TF:
   IVF:
                                                                  4,784 mL
                                                                  2,862 mL
   Blood products:
   93 mL
   Total out:
                                                                  3,520 mL
                                                                  1,650 mL
   Urine:
                                                                  3,520 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,844 mL
                                                                  1,304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Thrush on right palate
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Physiologically split S2
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Few, No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: At bases, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   290 K/uL
   136 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.8 mEq/L
   2 mg/dL
   109 mEq/L
   140 mEq/L
   22.2 %
   4.5 K/uL
        [image002.jpg]
                             [**2172-7-24**]  09:04 AM
                             [**2172-7-24**]  08:06 PM
                             [**2172-7-25**]  09:25 AM
                             [**2172-7-25**]  04:03 PM
                             [**2172-7-26**]  03:00 AM
                             [**2172-7-26**]  04:30 PM
                             [**2172-7-27**]  04:17 AM
   WBC
   0.6
   1.5
   1.5
   4.5
   Hct
   21.3
   23.1
   21.3
   22.1
   22.2
   Plt
   63
   149
   172
   290
   Cr
   0.3
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   123
   104
   131
   100
   112
   136
   Other labs: PT / PTT / INR:15.5/31.3/1.4, ALT / AST:54/55, Alk Phos / T
   Bili:321/0.3, Amylase / Lipase:37/17, Albumin:2.7 g/dL, LDH:261 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Imaging: CT of neck negative for abscess and sinusitis.
   Assessment and Plan
   1) Afib
   2) Tachycardia
   3) fever
   Heart rate under better control. Patient denies palpitations.
   Fever persists, although patient no longer neutropenic. No clear site
   of infection. Continues on antibiotics.
   Maintain positive fluid balance with fevers and borderline low blood
   pressure.
   Anemia persists although other blood counts have returned to [**Location 810**].
   No need for transfusion now.
   ICU Care
   Nutrition: oral feeding
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2172-7-24**] 03:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes